US06884868B1
A solution of methyl (S)-4-[4-[2-(tert-butoxycarbonylamino)-3-cyclohexylpropyloxy]phenyl]benzoate (0.28 g) in a mixed solvent of methanol (14 ml) and tetrahydrofuran (3 ml) was treated with 1N-sodium hydroxide aqueous solution, and the mixture was refluxed for 16 hours. After cooling, water was added to the mixture, and the acidity of the mixture was adjusted to pH 1 with 1N-hydrochloric acid. The resulting precipitate was filtered, washed with water and dried under reduced pressure to give (S)-4-[4-[2-(tert-butoxycarbonylamino)-3-cyclohexylpropyloxy]phenyl]benzoic acid (222 mg) as a white solid.

reactant | methyl (S)-4-[4-[2-(tert-butoxycarbonylamino)-3-cyclohexylpropyloxy]phenyl]benzoate | 0.28 g | C(C)(C)(C)OC(=O)N[C@H](COC1=CC=C(C=C1)C1=CC=C(C(=O)OC)C=C1)CC1CCCCC1 | C28H37NO5
reactant | methanol | 14 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (S)-4-[4-[2-(tert-butoxycarbonylamino)-3-cyclohexylpropyloxy]phenyl]benzoic acid | 222 mg | C(C)(C)(C)OC(=O)N[C@H](COC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1)CC1CCCCC1 | C27H35NO5
